US08957063B2
Step 2: Synthesis of 2-butylamino-N-(5-tert-butyl-isoxazol-3-yl)-2-methyl-propionamide (Example 17 in Table 4)
To a solution of n-butylamine (51 mg, 0.69 mmol) in THF (2 mL) at room temperature under nitrogen is added NaH (33 mg, 1.38 mmol) in portions over 10 min. After the addition is complete, 2-bromo-N-(5-tert-butyl-isoxazol-3-yl)-2-methyl-propionamide (0.10 g, 0.35 mmol) is introduced to the reaction and the resulting mixture is stirred for 16 h. The solvent is then removed under reduced pressure and the residue is partitioned between DCM and saturated aqueous NaHCO3 solution. The organic phase is separated, washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure. The crude product is purified by mass-triggered preparative HPLC. The purified compound is dissolved in DCM and free-based with Ambersep 900-OH resin over 2 h. After this time, the suspension is filtered and the filtrate is concentrated under reduced pressure to provide the title compound (35.4 mg, 37%).

reactant | n-butylamine | 0.69 mmol, 51 mg | C(CCC)N | C4H11N
reactant | NaH | 1.38 mmol, 33 mg | [H-].[Na+]
reactant | 2-bromo-N-(5-tert-butyl-isoxazol-3-yl)-2-methyl-propionamide | 0.35 mmol, 0.10 g | BrC(C(=O)NC1=NOC(=C1)C(C)(C)C)(C)C | C11H17BrN2O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-butylamino-N-(5-tert-butyl-isoxazol-3-yl)-2-methyl-propionamide | 35.4 mg, 37% | C(CCC)NC(C(=O)NC1=NOC(=C1)C(C)(C)C)(C)C | C15H27N3O2
